US08134001B2
In a manner similar to the method described in Example 50a, 2,6-dichlorobenzaldehyde (2.7 g, 15 mmol) (Aldrich) was reacted with 4-methoxyphenol (1.8 g, 15 mmol) and K2CO3 in N,N-dimethylacetamide to give 2-chloro-6-(4-methoxy-phenoxy)-benzaldehyde as a yellow oil (Yield 3.2 g, 80%).

reactant | 2,6-dichlorobenzaldehyde | 15 mmol, 2.7 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | 4-methoxyphenol | 15 mmol, 1.8 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 2-chloro-6-(4-methoxy-phenoxy)-benzaldehyde | Yield 3.2 g, 80% | ClC1=C(C=O)C(=CC=C1)OC1=CC=C(C=C1)OC | C14H11ClO3
